Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ man with polysubstance abuse 
(cocaine via smoking, heroin) who presents from ___ 
___ where he was detoxing with seizure. Per nursing report 
(current nurse on call did not witness this), he was feeling 
nauseous and "retching," told his nurse that he was not feeling 
well. Around 9pm, pt complained of twitching, jerking of his 
limbs observed when he went to ask for his medications. Pt fell 
on the floor but was not unconscious. He then took his meds and 
went to his room. While vital signs being taken, appeared to 
have grand mal seizure in the bed. He turned his head (not 
documented which side), bit his lip, and had possible urinary 
incontinence. O2 sat was 96, pulse 84, BP 166/78. He appeared 
dazed after seizure, not verbally responsive, staring into 
space. The nurse reported that his pupils were "very, very big." 
Unsure how long episode lasted. Because of this, he was taken to 
___ for further workup.

On referral from ED ___, there is report of "2 tonic clonic 
seizures today, hx of withdrawal seizures." On initial 
evaluation, pt was back at baseline and reading a book. He 
reported that he had 2 other seizures in his life, both in the 
last 3 months in the setting of trying acid. He denied any 
alcohol use or history of alcohol withdrawal. He does use 
cocaine and heroin but reportedly did not use any in the last 2 
days because he was at ___. Per ___ nurse, he was 
only admitted ___. 

On evaluation in the am, pt reports that a few months ago, he 
took 30 hits of LSD. Several weeks later, he had his first 
seizure. He does not think that his first seizure was caused by 
anything. He can tell when they start coming on because his arms 
and legs would start jerking. These would occur for about 15 
minutes before he "blacks out" and has a large seizure. No 
history of seizure prior to the last few months. Denies 
epigastric rising sensation, odd smells, sense of de ___ prior 
to seizure. Only arm or leg jerking would precede episode. Last 
used cocaine and marijuana ___ days ago.

 
Past Medical History:
Severe anxiety
Depression
Hepatitis C (not treated)
Pyloric Stenosis (s/p repair)
 
Social History:
___
Family History:
no family history of seizures
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals:  T: 98.6F  HR: 85  BP: 128/73  RR: 16  SaO2: 97% RA
General: sleepy, falling asleep during interview, mumbling 
answers
HEENT: dry crusted blood around lips
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: sleepy, intermittently falling asleep but 
oriented to hospital and date. Inattentive, unable to name ___ 
backward without difficulty. Speech is fluent with full 
sentences, intact repetition, and intact verbal comprehension. 
Naming intact to high and low frequency objects. No paraphasias. 
No dysarthria. Normal prosody. Able to register 3 objects and 
recall ___ at 5 minutes but knew he forgot one object without 
any prompting. No apraxia. No evidence of hemineglect. No 
left-right confusion. Able to follow both midline and 
appendicular commands.

- Cranial Nerves: PERRL 9->8 brisk. VF full to number counting. 
EOMI, +nystagmus on far right and left gaze. V1-V3 without 
deficits to light touch bilaterally. No facial movement 
asymmetry. Hearing intact to finger rub bilaterally.  Palate 
elevation symmetric. SCM/Trapezius strength ___ bilaterally. 
Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis. Did not want to participate in ___ exam because he 
fell right back asleep the moment he laid down in bed. Was 
moving ___ spontaneously.

   [Delt] [Bic] [Tri] [ECR] [IO] 
    [C5]  [C5]  [C7]  [C6]  [T1] 
 L   5     5     5     5     5    
 R   5     5     5     5     5    
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
    L  2+    2+     2+      2+       1
    R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 10:45PM BLOOD WBC-4.3 RBC-4.86 Hgb-13.4* Hct-40.5 
MCV-83 MCH-27.6 MCHC-33.1 RDW-13.2 RDWSD-39.9 Plt ___
___ 10:45PM BLOOD Neuts-44.8 ___ Monos-7.2 Eos-2.8 
Baso-0.5 NRBC-0.0 Im ___ AbsNeut-1.93 AbsLymp-1.92 
AbsMono-0.31 AbsEos-0.12 AbsBaso-0.02
___ 10:45PM BLOOD Plt ___
___ 10:45PM BLOOD Glucose-97 UreaN-14 Creat-0.9 Na-138 
K-4.5 Cl-100 HCO3-26 AnGap-17
___ 10:45PM BLOOD ALT-121* AST-46* AlkPhos-136* TotBili-0.3
___ 10:45PM BLOOD Lipase-27
___ 10:45PM BLOOD Albumin-4.4
___ 10:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

==============
DISCHARGE LABS
==============
___ 04:50AM BLOOD WBC-4.8 RBC-4.78 Hgb-13.0* Hct-40.2 
MCV-84 MCH-27.2 MCHC-32.3 RDW-13.2 RDWSD-40.0 Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD ___ PTT-32.0 ___
___ 04:50AM BLOOD Glucose-85 UreaN-19 Creat-0.9 Na-139 
K-4.0 Cl-100 HCO3-27 AnGap-16
___ 04:50AM BLOOD ALT-99* AST-41* AlkPhos-126 TotBili-0.2
___ 04:50AM BLOOD Albumin-4.1 Calcium-9.4 Phos-5.0* Mg-1.9

=======
IMAGING
=======
___ CT HEAD W/O CONTRAST 
1. No acute intracranial abnormality. 
2. Please note MRI of the brain is more sensitive for the 
evaluation of 
seizure foci. 

=======
EEG
=======
Unremarkable (full report to follow)

 
Brief Hospital Course:
Mr. ___ was admitted to the general neurology service at 
___ on ___ for further workup of 
his seizures. On arrival he was found to have normal labs with a 
negative urine toxicology screen. He was also evaluated with a 
CT head, which was negative. An EEG was performed to assess for 
epileptiform activity and was normal (full report to follow). On 
further questioning during his hospitalization, he endorsed 
missing some doses of his gabapentin in the days preceding his 
seizure, which likely decreased his seizure threshold. The 
neurology team stressed the importance of strict daily adherence 
when taking the gabapentin to reduce the likelihood of seizure 
recurrence in the future. He had no further episodes suspicious 
for seizure during his stay, and was found to be medically 
cleared for transfer back to ___ to continue 
undergoing heroin detox. Mr. ___ should follow up with 
neurology within ___ weeks (appointment to be made) and consider 
doing a brain MRI as outpatient for further workup.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 10 mg PO TID 
2. OLANZapine 10 mg PO QHS 
3. Benztropine Mesylate 1 mg PO BID 
4. Gabapentin 800 mg PO TID 
5. Doxepin HCl 100 mg PO HS 
6. Fluoxetine 20 mg PO DAILY 
7. ChlorproMAZINE 50 mg PO QID 
8. Methadone 40 mg PO DAILY 

 
Discharge Medications:
1. Benztropine Mesylate 1 mg PO BID 
2. ChlorproMAZINE 50 mg PO QID 
3. Doxepin HCl 100 mg PO HS 
4. Fluoxetine 20 mg PO DAILY 
5. Gabapentin 800 mg PO TID 
6. Methadone 40 mg PO DAILY 
7. OLANZapine 10 mg PO QHS 
8. Propranolol 10 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology Service after presenting for 
evaluation of seizure episode.  While you were in the hospital 
you were closely monitored for any further events.  Also, you 
had an electroencephalogram done which was unremarkable.  
Psychiatry evaluated you and recommended continuing your 
medications which we did.  There were no further episodes during 
your admission and you were found to be medically clear to be 
transferred back to ___.  We recommended to 
continue taking your Gabapentin as prescribed and avoid missing 
any doses.  We also recommended avoid the use of illicit 
substances as they may increase the risk for seizures.  We will 
arrange a follow up visit with Neurology but, Please call the 
Neurology Office if you don't hear from us within the next week.
 
Followup Instructions:
___